US05677464
4-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone (6.12 g) was dissolved in 60 ml of 1-methyl-2-pyrrolidone, to which 60% of sodium hydride in oil (0.80 g) was added, and the mixture was stirred at room temperature for 3 hours. The reaction solution was ice-cooled and added dropwise under nitrogen atmosphere over the period of 25 minutes to a solution of 7.32 g of (2S)-2',4'-difluoro-2-trifluoromethanesulfonyloxypropiophenone in 180 ml of tetrahydrofuran which was cooled to -50° C. Then, the reaction temperature was raised to -30° C. over the period of 10 minutes. After stirring for 30 minutes, the reaction solution was diluted with 10 ml of acetic acid and 500 ml of ethyl acetate, washed with water (300 ml×2), 0.5N-hydrochloric acid (400 ml×2) and 300 ml of a saturated aqueous solution of sodium chloride successively, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (silica gel: 250 g, eluent; hexane:ethyl acetate:acetic acid=3:1:0.04), and dissolved in 12 ml of diisopropyl ether. The solution was allowed to stand for 1 hour with ice cooling. The deposited insoluble substance was removed by filtration and the solution was concentrated under reduced pressure to give 5.36 g of 2-[(1R)-2-(2,4-difluorophenyl)-2-oxo-1-methylethyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone as a pale yellow viscous substance.

reactant | 4-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 6.12 g | FC(COC1=CC=C(C=C1)N1C(NN=C1)=O)(C(F)F)F | C11H9F4N3O2
reactant | (2S)-2',4'-difluoro-2-trifluoromethanesulfonyloxypropiophenone | 7.32 g | FC1=C(C=CC(=C1)F)C([C@H](C)OS(=O)(=O)C(F)(F)F)=O | C10H7F5O4S
solvent | 1-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(1R)-2-(2,4-difluorophenyl)-2-oxo-1-methylethyl]-4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-3(2H,4H)-1,2,4-triazolone | 5.36 g | FC1=C(C=CC(=C1)F)C([C@@H](C)N1N=CN(C1=O)C1=CC=C(C=C1)OCC(C(F)F)(F)F)=O | C20H15F6N3O3
